US07781428B2
A mixture of 6-acetamido-1-tetralone (200 mg, 0.98 mmol) and cyclopentanecarboxaldehyde (0.21 mL, 1.9 mmol) in methanol (2 mL) was treated with pyrrolidine (0.25 mL, 2.9 mmol) at room temperature for 1 hour then heated at 55° C. overnight. The mixture was cooled to room temperature, treated with 1N Hydrogen chloride (4 mL) was filtered thru a Chem Elute tube (CE101 1) eluting with 90% dichloromethane/10% ethyl acetate and condensed filtrate to give (E)-N-(6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)acetamide (200 mg, 0.71 mmol, 72% n yield) as a tan foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25-1.44 (m, 2H), 1.52-1.76 (m, 4H), 1.77-1.90 (m, 2H), 2.08 (s, 3H), 2.70-2.92 (m, 5H), 6.63 (d, J=9.67 Hz, 1H), 7.49 (dd, J=8.59, 2.15 Hz, 1H), 7.59-7.66 (m, 1H), 7.86 (d, J=8.59 Hz, 1H), 10.23 (s, 1H). ES-MS m/z 284 (M+H).

reactant | 6-acetamido-1-tetralone | 0.98 mmol, 200 mg | C(C)(=O)NC=1C=C2CCCC(C2=CC1)=O | C12H13NO2
reactant | cyclopentanecarboxaldehyde | 1.9 mmol, 0.21 mL | C1(CCCC1)C=O | C6H10O
reactant | pyrrolidine | 2.9 mmol, 0.25 mL | N1CCCC1 | C4H9N
reactant | Hydrogen chloride | 1N, 4 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | (E)-N-(6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)acetamide | 0.71 mmol, 200 mg, 72% | C1(CCCC1)\C=C/1\C(C=2C=CC(=CC2CC1)NC(C)=O)=O | C18H21NO2
